US06875869B2
N-Ethyl-N-phenyl-5-chloro-1,2-dihydro-4-hydroxy-1-methyl-2-oxo-quinoline-3-carboxamide
5-Chloro-1,2-dihydro-4-hydroxy-1-methyl-2-oxo-quinoline-3-carboxylic acid methyl ester (3.0 g), N-ethylaniline (2 eq 2-2.88 ml), and heptaue (60 ml) were heated and the volatiles, mainly heptane and formed methanol, (32 ml) distilled off during 6 hours and 35 minutes. After cooling to room temperature the crystalline suspension was filtered and the crystals were washed with heptane and dried in vacuum to yield the crude title compound (3.94 g, 98%) as white to off-white crystals.

reactant | 5-Chloro-1,2-dihydro-4-hydroxy-1-methyl-2-oxo-quinoline-3-carboxylic acid methyl ester | 3.0 g | COC(=O)C=1C(N(C2=CC=CC(=C2C1O)Cl)C)=O | C12H10ClNO4
reactant | N-ethylaniline | 2-2.88 ml, 2 eq | C(C)NC1=CC=CC=C1 | C8H11N
reactant | heptane | CCCCCCC | C7H16
solvent | methanol | 32 ml | CO | CH4O
product | N-Ethyl-N-phenyl-5-chloro-1,2-dihydro-4-hydroxy-1-methyl-2-oxo-quinoline-3-carboxamide | 3.94 g, 98% | C(C)N(C(=O)C=1C(N(C2=CC=CC(=C2C1O)Cl)C)=O)C1=CC=CC=C1 | C19H17ClN2O3
